US08039450B2
6-Chloro-2-propoxy-nicotinamide (2)
To a solution of propan-1-ol (2.94 mL, 39.26 mmol) in DMF (15 mL) at 0° C. was added sodium hydride (95% in mineral oil, 0.94 g, 39.26 mmol) in portions and stirred for 1 h at room temperature. This mixture was slowly added to a solution of 2,6-dichloro-nicotinamide (5.0 g, 26.17 mmol) in DMF (25 mL) at 0° C. The reaction mixture was stirred at room temperature overnight. DMF was removed under reduced pressure, and the resulting mixture was diluted with EtOAc (60 mL), washed with water (2×20 mL) and brine (2×10 mL) solution, dried over anhydrous Na2SO4, filtered, and concentrated to give yellow oil. Purification was accomplished by flash chromatography on silica gel using 5-60% EtOAc/hexanes gradient elution to yield the title compound (3.8 g, 68%) as a transparent oil. 1H NMR (400 MHz, CDCl3) δ ppm 8.46 (d, J=8.2 Hz, 1H), 7.69 (br. s., 1H), 7.06 (d, J=8.2 Hz, 1H), 5.86 (br. s., 1H), 4.48 (t, J=6.6 Hz, 2H), 1.99-1.79 (m, 2H), 1.07 (t, J=7.4 Hz, 3H).

reactant | propan-1-ol | 39.26 mmol, 2.94 mL | C(CC)O | C3H8O
reactant | sodium hydride | 39.26 mmol, 0.94 g | [H-].[Na+]
reactant | 2,6-dichloro-nicotinamide | 26.17 mmol, 5.0 g | ClC1=C(C(=O)N)C=CC(=N1)Cl | C6H4Cl2N2O
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 6-Chloro-2-propoxy-nicotinamide | 3.8 g, 68% | ClC1=NC(=C(C(=O)N)C=C1)OCCC | C9H11ClN2O2
